US04035499
A. 2-phenacylisoquinolinium bromide
A solution of phenacyl bromide (20 g) in dry ether (100 ml) was added, with stirring, to a solution of isoquinoline (13 g) in ether (50 L ml). The solution was stirred for 30 minutes, and allowed to stand overnight. The precipitated product was filtered off, washed well with ether, and dried. Yield 26.8 g.

reactant | phenacyl bromide | 20 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | isoquinoline | 13 g | C1=NC=CC2=CC=CC=C12 | C9H7N
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 L | CCOCC | C4H10O
product | 2-phenacylisoquinolinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC2=CC=CC=C2C=C1 | InChI=1S/C17H14NO.BrH/c19-17(15-7-2-1-3-8-15)13-18-11-10-14-6-4-5-9-16(14)12-18;/h1-12H,13H2;1H/q+1;/p-1
